US06207701B1
N-benzyl-3-fluoro-2-({[phenylmethyl]imino}methyl)aniline
A resealable tube was charged with 2,6-difluorobenzaldehyde (7.11 g, 50 mmol), benzylamine (27.3 mL, 250 mmol), cesium carbonate (19.5 g, 60 mmol), and dry toluene (170 mL). The tube was sealed and heated at 150° C. for 4 hours with rapid stirring. The reaction mixture was cooled and partitioned between ethyl acetate and 10% aqueous HCl. The organic layer was removed and the aqueous layer was extracted (2×, ethyl acetate). The combined organic extracts were washed (2×, saturated sodium bicarbonate; 2×, brine), dried (Na2SO4), filtered and concentrated under vacuum to provide the title compound (13.17 g; 83%) which was used without purification. MS (DCI/NH3) m/e 318 (M+H)+.

reactant | 2,6-difluorobenzaldehyde | 50 mmol, 7.11 g | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
reactant | benzylamine | 250 mmol, 27.3 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | cesium carbonate | 60 mmol, 19.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 170 mL | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-3-fluoro-2-({[phenylmethyl]imino}methyl)aniline | 13.17 g, 83% | C(C1=CC=CC=C1)NC1=C(C(=CC=C1)F)C=NCC1=CC=CC=C1 | C21H19FN2
